US05696272
Preparation of (Pentanimidoylamino)acetic Acid
A stirred suspension of glycine (18.77 g, 0.25 mol) in methanol (80 ml) and water (4.5 ml) was cooled to 0° C. and adjusted to pH 9.6 by adding 30 percent strength sodium hydroxide solution. Methyl pentanimidate (68.81 g of a 42 percent strength solution in toluene=0.25 mol) was added to this suspension over the course of 5 minutes. After stirring for 18 hours at room temperature, the suspension was filtered, and the filter cake was washed with toluene (75 ml) and dried. The yield of the title compound was 25.45 g (purity>95 percent by H-NMR), 64 percent based on glycine. Other data concerning the title compound was:

reactant | glycine | 0.25 mol, 18.77 g | NCC(=O)O | C2H5NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Methyl pentanimidate | C(CCCC)(OC)=N | C6H13NO
solvent | methanol | 80 ml | CO | CH4O
solvent | water | 4.5 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (Pentanimidoylamino)acetic Acid | C(CCCC)(=N)NCC(=O)O | C7H14N2O2
